US06919331B2
1H-Benzotriazole-5-carboxylic acid (1.0 g, 6.13 mmol), urea (0.552 g, 9.2 mmol) and sulfamic acid (1.19 g, 12.3 mmol) were heated to 240° C. for 1 h. The solid was triturated with water and the solid refluxed with CH2Cl2 for 1 h and the remaining solid removed by filtration. The solvent was removed to give 1H-benzotriazole-5-carbonitrile 100 mg (14%) as a white solid.

reactant | 1H-Benzotriazole-5-carboxylic acid | 6.13 mmol, 1.0 g | N1N=NC2=C1C=CC(=C2)C(=O)O | C7H5N3O2
reactant | urea | 9.2 mmol, 0.552 g | NC(=O)N | CH4N2O
reactant | sulfamic acid | 12.3 mmol, 1.19 g | S(N)(O)(=O)=O | H3NO3S
product | 1H-benzotriazole-5-carbonitrile | 100 mg, 14% | N1N=NC2=C1C=CC(=C2)C#N | C7H4N4
